US04859700
Stage A: 2-(5-Chloro-2,3-dihydro-2-oxo-3-phenyl-3-benzofuranyl)acetyl chloride
23.7 g of double-distilled thionyl chloride are added dropwise to a solution, stirred and heated to 70° C., of 30.2 g of 2-(5-chloro-2,3-dihydro-2-oxo-3-phenyl-3-benzofuranyl)acetic acid in 250 ml of anhydrous benzene. When the addition is complete, the mixture is heated to reflux until the evolution of gas has completely ceased. The medium is concentrated under vacuum, the residue washed with 200 ml of anhydrous benzene and the solvent evaporated off. This operation is repeated twice and the product is left to crystallize at room temperature. The crystals are washed with petroleum ether and filtered off, and 31 g of pure product are obtained.

reactant | thionyl chloride | 23.7 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(5-chloro-2,3-dihydro-2-oxo-3-phenyl-3-benzofuranyl)acetic acid | 30.2 g | ClC=1C=CC2=C(C(C(O2)=O)(C2=CC=CC=C2)CC(=O)O)C1 | C16H11ClO4
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | 2-(5-Chloro-2,3-dihydro-2-oxo-3-phenyl-3-benzofuranyl)acetyl chloride | 31 g, Yield: 95% | ClC=1C=CC2=C(C(C(O2)=O)(C2=CC=CC=C2)CC(=O)Cl)C1 | C16H10Cl2O3
